### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Pow/Real): add bound on log

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This is the third PR in a sequence that adds auxiliary lemmas from the [EulerProducts](https://github.com/MichaelStollBayreuth/EulerProducts) project to Mathlib.

It adds a bound for real logarithms in terms of powers:
```lean
lemma Real.log_le_rpow_div {x ε : ℝ} (hx : 0 ≤ x) (hε : 0 < ε) : log x ≤ x ^ ε / ε

lemma Real.log_natCast_le_rpow_div (n : ℕ) {ε : ℝ} (hε : 0 < ε) : log n ≤ n ^ ε / ε
```
and some lemmas on (norms of) complex powers of natural numbers:
```lean
lemma Complex.norm_natCast_cpow_of_re_ne_zero (n : ℕ) {s : ℂ} (hs : s.re ≠ 0) :
    ‖(n : ℂ) ^ s‖ = (n : ℝ) ^ (s.re)

lemma Complex.norm_natCast_cpow_of_pos {n : ℕ} (hn : 0 < n) (s : ℂ) :
    ‖(n : ℂ) ^ s‖ = (n : ℝ) ^ (s.re)

lemma Complex.norm_natCast_cpow_pos_of_pos {n : ℕ} (hn : 0 < n) (s : ℂ) : 0 < ‖(n : ℂ) ^ s‖

lemma Complex.norm_prime_cpow_le_one_half (p : Nat.Primes) {s : ℂ} (hs : 1 < s.re) :
    ‖(p : ℂ) ^ (-s)‖ ≤ 1 / 2

lemma Complex.one_sub_prime_cpow_ne_zero {p : ℕ} (hp : p.Prime) {s : ℂ} (hs : 1 < s.re) :
    1 - (p : ℂ) ^ (-s) ≠ 0

lemma Complex.norm_natCast_cpow_le_norm_natCast_cpow_of_pos {n : ℕ} (hn : 0 < n) {w z : ℂ} (h : w.re ≤ z.re) :
    ‖(n : ℂ) ^ w‖ ≤ ‖(n : ℂ) ^ z‖

lemma Complex.norm_natCast_cpow_le_norm_natCast_cpow_iff {n : ℕ} (hn : 1 < n) {w z : ℂ} :
    ‖(n : ℂ) ^ w‖ ≤ ‖(n : ℂ) ^ z‖ ↔ w.re ≤ z.
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 1]
```diff
@@ -780,6 +791,22 @@ theorem abs_log_mul_self_rpow_lt (x t : ℝ) (h1 : 0 < x) (h2 : x ≤ 1) (ht : 0
...
+/-- `log x` is bounded above by a multiple of every power of `x` with positive exponent. -/
+lemma log_le_mul_rpow {x ε : ℝ} (hx : 0 ≤ x) (hε : 0 < ε) : log x ≤ ε⁻¹ * x ^ ε := by
+  rcases hx.eq_or_lt with rfl | h
+  · rw [log_zero, zero_rpow hε.ne', mul_zero]
+  suffices : ε * log x ≤ x ^ ε
+  · apply_fun (ε⁻¹ * ·) at this using monotone_mul_left_of_nonneg (inv_pos.mpr hε).le
+    simp only at this
+    rwa [← mul_assoc, inv_mul_cancel hε.ne', one_mul] at this
+  exact (log_rpow h ε).symm.trans_le <| (log_le_sub_one_of_pos <| rpow_pos_of_pos h ε).trans
+    (sub_one_lt _).le
```
Comment (mcdoll) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:803]: I think `x^ε / ε` is the better spelling, for example `field_simp` reduces to that. It also makes the proofs much easier, for example:

```suggestion
/-- `log x` is bounded above by a multiple of every power of `x` with positive exponent. -/
lemma log_le_mul_rpow {x ε : ℝ} (hx : 0 ≤ x) (hε : 0 < ε) : log x ≤ x ^ ε / ε := by
  rcases hx.eq_or_lt with rfl | h
  · field_simp [hε]
  rw [le_div_iff' hε]
  exact (log_rpow h ε).symm.trans_le <| (log_le_sub_one_of_pos <| rpow_pos_of_pos h ε).trans
    (sub_one_lt _).le
```

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 2]
```diff
@@ -807,6 +831,32 @@ lemma antitone_rpow_of_base_le_one {b : ℝ} (hb₀ : 0 < b) (hb₁ : b ≤ 1) :
...
+  simp only at this
+  rw [← H, norm_one] at this
+  norm_num at this
+
+lemma norm_natCast_cpow_le_norm_natCast_cpow_of_pos {n : ℕ} (hn : 0 < n) {w z : ℂ}
+    (h : w.re ≤ z.re) :
+    ‖(n : ℂ) ^ w‖ ≤ ‖(n : ℂ) ^ z‖ := by
+  simp_rw [norm_natCast_cpow_of_pos hn]
+  exact Real.rpow_le_rpow_of_exponent_le (by exact_mod_cast hn) h
+
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:857]: How about we also add:
```suggestion

lemma norm_natCast_cpow_le_norm_natCast_cpow_iff {n : ℕ} (hn : 1 < n) {w z : ℂ} :
    ‖(n : ℂ) ^ w‖ ≤ ‖(n : ℂ) ^ z‖ ↔ w.re ≤ z.re := by
  simp_rw [norm_natCast_cpow_of_pos (Nat.zero_lt_of_lt hn),
    Real.rpow_le_rpow_left_iff (Nat.one_lt_cast.mpr hn)]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:857]: Done.
